US04011324
N-[2-(2-Pyridyloxy)ethyl]3-Carbethoxymethyl-7,8-dimethoxypyrimido[4,5-b]quinolin-4(3H)-one-2-carboxamide
A solution of ethyl 3-carbethoxymethyl-7,8-dimethoxypyrimido[4,5-b]quinolin-4(3H)-one-2-carboxylate (0.415 g., 1mM) and 2-(2-pyridyloxy)ethylamine (0.276 g., 2 mM) in chloroform (10 ml.) is refluxed for 24 hours. It is then cooled to room temperature and concentrated in vacuo. The residue, an oil, is crystallized by addition of ether until precipitation is complete. Yield = 0.41 g. (81%) of product; m.p. 170°-180° C.

reactant | ethyl 3-carbethoxymethyl-7,8-dimethoxypyrimido[4,5-b]quinolin-4(3H)-one-2-carboxylate | 1mM, 0.415 g | C(=O)(OCC)CN1C(=NC2=NC3=CC(=C(C=C3C=C2C1=O)OC)OC)C(=O)OCC | C20H21N3O7
reactant | 2-(2-pyridyloxy)ethylamine | 2 mM, 0.276 g | N1=C(C=CC=C1)OCCN | C7H10N2O
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | N-[2-(2-Pyridyloxy)ethyl]3-Carbethoxymethyl-7,8-dimethoxypyrimido[4,5-b]quinolin-4(3H)-one-2-carboxamide | N1=C(C=CC=C1)OCCNC(=O)C=1N(C(C=2C(=NC3=CC(=C(C=C3C2)OC)OC)N1)=O)CC(=O)OCC | C25H25N5O7
